** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_4_1.sch
.subckt MUX_4_1 VINA VINB VDD VOUT VS[1] VS[0] VINC VSS VIND VST
*.PININFO VOUT:O VDD:B VSS:B VINA:I VINB:I VINC:I VIND:I VS[1:0]:I VST:I
x3 VDD VINC net2 VS[1] VIND VSS MUX_2_1
x4 VDD VINA net1 VS[0] VINB VSS MUX_2_1
x5 VDD net1 VOUT VST net2 VSS MUX_2_1
.ends

* expanding   symbol:  MUX_2_1.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/MUX_2_1.sch
.subckt MUX_2_1 VDD VINA VOUT VS VINB VSS
*.PININFO VOUT:O VINA:I VINB:I VS:I VDD:B VSS:B
x1 VOUT net1 VS net2 VDD VSS tg_custom
x2 VOUT VS net1 net3 VDD VSS tg_custom
x3 VDD net1 VS VSS inv
x4 VDD net2 VINA VSS inv_PI
x5 VDD net3 VINB VSS inv_PI
x6[3] VOUT VSS VDD net2 VDD VSS tg_custom
x6[2] VOUT VSS VDD net2 VDD VSS tg_custom
x6[1] VOUT VSS VDD net2 VDD VSS tg_custom
x6[0] VOUT VSS VDD net2 VDD VSS tg_custom
x7[3] VOUT VSS VDD net3 VDD VSS tg_custom
x7[2] VOUT VSS VDD net3 VDD VSS tg_custom
x7[1] VOUT VSS VDD net3 VDD VSS tg_custom
x7[0] VOUT VSS VDD net3 VDD VSS tg_custom
.ends


* expanding   symbol:  tg_custom.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/tg_custom.sch
.subckt tg_custom VOUT VSN VSP VIN VBP VBN
*.PININFO VIN:B VSN:B VOUT:B VSP:B VBN:B VBP:B
M1 VOUT VSN VIN VBN sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M2 VOUT VSP VIN VBP sg13_lv_pmos w=0.3u l=0.13u ng=2 m=1
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  inv_PI.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_PI.sch
.subckt inv_PI VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=3 m=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1
.ends

